US05424329
Ethyl 5-(acetyloxy)-1-methyl-1H-indole-2-carboxylate
A solution of ethyl 5-hydroxy-1-methyl-1H-indole-2-carboxylate (2.2 g, 10.0 mmol) in 50 mL of tetrahydrofuran is treated dropwise with acetyl chloride (0.80 mL, 0.88 g, 11.3 mmol) followed by triethylamine (1.6 mL, 1.2 g, 11.5 mmol). The mixture is stirred at room temperature for 16 hours, then diluted with water and extracted with ethyl acetate. The combined organic layers are washed with brine, dried (anhydrous magnesium sulfate), and evaporated. Recrystallization of the residue from ether-pentane gives 2.0 g (77%) of product; mp 87°-89° C.

reactant | ethyl 5-hydroxy-1-methyl-1H-indole-2-carboxylate | 10.0 mmol, 2.2 g | OC=1C=C2C=C(N(C2=CC1)C)C(=O)OCC | C12H13NO3
reactant | acetyl chloride | 11.3 mmol, 0.80 mL, 0.88 g | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 11.5 mmol, 1.6 mL, 1.2 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | Ethyl 5-(acetyloxy)-1-methyl-1H-indole-2-carboxylate | 2.0 g, 77% | C(C)(=O)OC=1C=C2C=C(N(C2=CC1)C)C(=O)OCC | C14H15NO4
